2127-12-29 07:00:00 Physician Resident Progress Note
Chief Complaint: Dyspnea
   24 Hour Events:
   - Transferred with large oxygen requirement and upon concern that
   intubation would be necessary.
   - Supported on Venturi mask at 100%. Saturating 90% with no dyspnea.
   - Need to discuss bronch. in a.m.
   - Suspicious for plugging.
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-29**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96.1
   HR: 66 (65 - 77) bpm
   BP: 128/60(77) {123/55(72) - 132/61(79)} mmHg
   RR: 15 (15 - 23) insp/min
   SpO2: 91%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                    220 mL
   Urine:
   220 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -220 mL
   Respiratory support
   O2 Delivery Device: High flow neb
   SpO2: 91%
   ABG: 7.37/44/65/20/0
   PaO2 / FiO2: 108
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   317 K/uL
   9.0 g/dL
   80 mg/dL
   3.5 mg/dL
   20 mEq/L
   4.8 mEq/L
   32 mg/dL
   104 mEq/L
   136 mEq/L
   28.6 %
   6.4 K/uL
        [image002.jpg]
                             [**2127-12-29**]  12:29 AM
                             [**2127-12-29**]  04:33 AM
   WBC
   6.4
   Hct
   28.6
   Plt
   317
   Cr
   3.5
   TCO2
   26
   Glucose
   80
   Other labs: Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %,
   Eos:0.8 %, Lactic Acid:0.7 mmol/L, Ca++:8.3 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.6 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: CXR:
   Microbiology: MRSA screen pending
   Assessment and Plan
 HYPOXEMIA
   85 yo female with HTN, HLP, CKD stage 4 s/p treatment of [**Hospital **]
   transferred to MICU in setting of hypoxia most likely secondary to
   mucus plugging
   .
   # Hypoxia/respiratory distress: Given the CXR findings, and the acuity
   of symptoms, most likely related to mucous plugging from secetions. By
   the time the patient arrived to the MICU, her respiratory distress had
   improved. Other thingg to consider which are lower on the DDX are acute
   heart failure, COPD exacerbation, PE but per history and examination
   these are less likely.
   - repeat CXR in AM
   - ABG to assess gradient
   - NPO
   - may need to undergo bronchoscopy with intubation, currently 100% on
   5L NC and Venturi mask
   - non con CT chest in AM to evaluate for lesion and better define
   anatomy
   - hold ABX as no leukocytosis or fever
   - chest PT
   - nebs
   - guaifenisen
   .
   #. CKD4
   - renally-dose medications
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - cont bicarb
   .
   #. Hypertension - Somewhat better control.
   -Continue diltiazem 60mg PO QID.
   .
   #. Hypothyroidism - cont home levothyroxine
   .
   #. Hyperlipidemia - cont home statin
   .
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2127-12-28**] 11:44 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-12-30 07:16:00 Physician Resident Progress Note
Chief Complaint: - Intubated for increased somnolence, hypoxia. Copious
   secretions suctioned, sputum grain stain negative.
   - A-line placed
   24 Hour Events:
 INVASIVE VENTILATION - START [**2127-12-29**] 06:50 PM
 SPUTUM CULTURE - At [**2127-12-29**] 07:54 PM
 ARTERIAL LINE - START [**2127-12-29**] 08:37 PM
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2127-12-29**] 08:40 PM
   Dextrose 50% - [**2127-12-30**] 05:23 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.4
C (97.5
   Tcurrent: 36.4
C (97.5
   HR: 63 (62 - 93) bpm
   BP: 144/53(84) {132/51(77) - 171/71(109)} mmHg
   RR: 14 (11 - 21) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    648 mL
                                                                    220 mL
   PO:
             TF:
   IVF:
                                                                    618 mL
                                                                    165 mL
   Blood products:
   Total out:
                                                                    405 mL
                                                                    395 mL
   Urine:
                                                                    405 mL
                                                                    395 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    243 mL
                                                                   -175 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 0 (0 - 0) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 45
   PIP: 21 cmH2O
   Plateau: 15 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/38/151/20/-3
   Ve: 6.1 L/min
   PaO2 / FiO2: 377
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   CXR
 Basilar nodules, left pleura effusion with atelectasis
   CT -
   1. Partial atelectasis of the lingula and complete collapse of left
   lower
   lobe is likely due to mucous impaction, but a mass cannot be excluded
   due to
   absence of contrast administration.
   2. Several pulmonary nodules are predominantly stable. Several new
   right
   lung lobe nodules are likely inflammatory and can followed by CT to
   ensure
   stability in 6 months if warranted clinically.
   3. Findings suggestive of pulmonary artery hypertension.
   4. Enlarged mediastinal lymph nodes are similar to [**2121-10-30**].
   261 K/uL
   7.6 g/dL
   60 mg/dL
   3.7 mg/dL
   20 mEq/L
   4.9 mEq/L
   35 mg/dL
   106 mEq/L
   137 mEq/L
   24.0 %
   5.7 K/uL
        [image002.jpg]
                             [**2127-12-29**]  12:29 AM
                             [**2127-12-29**]  04:33 AM
                             [**2127-12-29**]  06:24 PM
                             [**2127-12-29**]  08:55 PM
                             [**2127-12-29**]  09:00 PM
                             [**2127-12-30**]  04:17 AM
                             [**2127-12-30**]  04:18 AM
   WBC
   6.4
   6.7
   5.7
   Hct
   28.6
   25.9
   24.0
   Plt
   [**Telephone/Fax (3) 11511**]
   Cr
   3.5
   3.7
   3.7
   TCO2
   26
   24
   22
   22
   Glucose
   80
   88
   60
   Other labs: PT / PTT / INR:11.3/27.0/0.9, Differential-Neuts:76.9 %,
   Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic Acid:0.5 mmol/L, Ca++:7.9
   mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   85 yo female with HTN, HLP, CKD stage 4 s/p treatment of [**Hospital **]
   transferred to MICU in setting of hypoxia most likely secondary to
   mucus plugging
   .
   # Hypoxia/respiratory distress: Given CXR/CT and acuity of symptoms,
   likely mucous plugging. By arrival to the MICU, respiratory distress
   had improved. Lower on the DDX are acute heart failure, COPD
   exacerbation, PE.
   - Bronchoscopy today ; NPO
   - Daily CXR to monitor for interval reexpansion of left lung
   - hold ABX as no leukocytosis or fever
   - nebs  and consider mucomyst
   - Will get NIFT today
   #. CKD4
   - renally-dose medications
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - cont bicarb
   .
   #. Hypertension - Somewhat better control.
   -Continue diltiazem 60mg PO QID.
   -Will try to clarify why patient is on Diltiazem (given no history for
   AFib)
   - Monitor blood pressures for now
   #. Hypothyroidism - cont home levothyroxine
   #. Hyperlipidemia - cont home statin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  Foley
   Aline
   22 Gauge - [**2127-12-28**] 11:44 PM
   Prophylaxis:
   DVT: Pneumoboots, Hep GQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2127-12-31 06:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BRONCHOSCOPY - At [**2127-12-30**] 01:30 PM
   spec sent for cx
 BLOOD CULTURED - At [**2127-12-30**] 03:57 PM
   #1 of 2
 URINE CULTURE - At [**2127-12-30**] 04:53 PM
 EKG - At [**2127-12-31**] 04:59 AM
   K 5.8
   [**2127-12-30**]
   - Bronch showed thick mucus, cx and gram stains sent; started Mucomyst
   q6hrs
   - No new culture data
   - Will try SBT in AM
   - Worsening renal failure with hyperkalemia, hyperphosphatemia. EKG
   without peaked T's; U/A & urine studies sent. Gave kayexelate
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 30 mcg/Kg/min
   Other ICU medications:
   Fentanyl - [**2127-12-30**] 01:30 PM
   Heparin Sodium (Prophylaxis) - [**2127-12-30**] 10:09 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2127-12-31**] 06:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.8
C (98.3
   HR: 79 (63 - 87) bpm
   BP: 148/55(88) {135/53(80) - 164/77(110)} mmHg
   RR: 19 (14 - 24) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                  1,404 mL
                                                                    861 mL
   PO:
             TF:
   IVF:
                                                                  1,049 mL
                                                                    651 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    300 mL
   Urine:
                                                                  1,040 mL
                                                                    300 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    364 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 439 (439 - 612) mL
   PS : 5 cmH2O
   RR (Set): 14
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 47
   PIP: 5 cmH2O
   Plateau: 16 cmH2O
   Compliance: 40.9 cmH2O/mL
   SpO2: 100%
   ABG: 7.35/37/130/19/-4
   Ve: 8.7 L/min
   PaO2 / FiO2: 325
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   283 K/uL
   7.7 g/dL
   99 mg/dL
   4.1 mg/dL
   19 mEq/L
   5.8 mEq/L
   39 mg/dL
   107 mEq/L
   140 mEq/L
   23.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2127-12-29**]  12:29 AM
                             [**2127-12-29**]  04:33 AM
                             [**2127-12-29**]  06:24 PM
                             [**2127-12-29**]  08:55 PM
                             [**2127-12-29**]  09:00 PM
                             [**2127-12-30**]  04:17 AM
                             [**2127-12-30**]  04:18 AM
                             [**2127-12-30**]  05:40 PM
                             [**2127-12-31**]  03:18 AM
                             [**2127-12-31**]  03:23 AM
   WBC
   6.4
   6.7
   5.7
   4.9
   Hct
   28.6
   25.9
   24.0
   23.7
   Plt
   [**Telephone/Fax (3) 11520**]83
   Cr
   3.5
   3.7
   3.7
   4.1
   TCO2
   26
   24
   22
   22
   21
   21
   Glucose
   80
   88
   60
   99
   Other labs: PT / PTT / INR:11.0/27.4/0.9, Differential-Neuts:76.9 %,
   Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic Acid:0.5 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.4 mg/dL, PO4:7.0 mg/dL
   Assessment and Plan
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
   85 yo female with HTN, HLP, CKD stage 4 s/p treatment of [**Hospital **]
   transferred to MICU in setting of hypoxia most likely secondary to
   mucus plugging
   .
   # Hypoxia/respiratory distress: Given CXR/CT and acuity of symptoms,
   likely mucous plugging. By arrival to the MICU, respiratory distress
   had improved. Lower on the DDX are acute heart failure, COPD
   exacerbation, PE.
   - Bronchoscopy today ; NPO
   - Daily CXR to monitor for interval reexpansion of left lung
   - hold ABX as no leukocytosis or fever
   - nebs  and consider mucomyst
   - Will get NIFT today
   #. CKD4
   - renally-dose medications
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - cont bicarb
   .
   #. Hypertension - Somewhat better control.
   -Continue diltiazem 60mg PO QID.
   -Will try to clarify why patient is on Diltiazem (given no history for
   AFib)
   - Monitor blood pressures for now
   #. Hypothyroidism - cont home levothyroxine
   #. Hyperlipidemia - cont home statin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:  Foley
   Aline
   22 Gauge - [**2127-12-28**] 11:44 PM
   Prophylaxis:
   DVT: Pneumoboots, Hep GQ
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   22 Gauge - [**2127-12-28**] 11:44 PM
   18 Gauge - [**2127-12-29**] 06:35 PM
   Arterial Line - [**2127-12-29**] 08:37 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-01 07:03:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**12-31**]:
   - Propofol stopped at 8am, pt tachy, hypertensive, tachypneic after
   Hydral/Lopressor --> restarted Propofol and will try again tomorrow
   - CT head non con to r/o intracranial etio for inability to wean:
   - Discussed goals of care w/ family
   - Started cipro for UTI
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2127-12-31**] 06:36 PM
   Infusions:
   Other ICU medications:
   Hydralazine - [**2127-12-31**] 09:31 AM
   Heparin Sodium (Prophylaxis) - [**2127-12-31**] 02:34 PM
   Metoprolol - [**2128-1-1**] 06:27 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-1**] 07:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.9
C (98.5
   HR: 80 (80 - 129) bpm
   BP: 161/70(105) {131/50(77) - 181/86(122)} mmHg
   RR: 25 (17 - 31) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,537 mL
                                                                    154 mL
   PO:
             TF:
   IVF:
                                                                  1,162 mL
                                                                    154 mL
   Blood products:
   Total out:
                                                                    721 mL
                                                                    165 mL
   Urine:
                                                                    721 mL
                                                                    165 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    816 mL
                                                                    -11 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 354 (344 - 581) mL
   PS : 8 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 54
   PIP: 14 cmH2O
   SpO2: 100%
   ABG: 7.40/35/171/21/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 428
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   289 K/uL
   7.7 g/dL
   118 mg/dL
   4.0 mg/dL
   21 mEq/L
   4.3 mEq/L
   42 mg/dL
   107 mEq/L
   141 mEq/L
   24.6 %
   9.7 K/uL
        [image002.jpg]
                             [**2127-12-29**]  09:00 PM
                             [**2127-12-30**]  04:17 AM
                             [**2127-12-30**]  04:18 AM
                             [**2127-12-30**]  05:40 PM
                             [**2127-12-31**]  03:18 AM
                             [**2127-12-31**]  03:23 AM
                             [**2127-12-31**]  01:35 PM
                             [**2127-12-31**]  01:46 PM
                             [**2128-1-1**]  02:14 AM
                             [**2128-1-1**]  02:22 AM
   WBC
   6.7
   5.7
   4.9
   9.7
   Hct
   25.9
   24.0
   23.7
   24.6
   Plt
   291
   261
   283
   289
   Cr
   3.7
   3.7
   4.1
   4.1
   4.0
   TCO2
   22
   21
   21
   20
   22
   Glucose
   88
   60
   99
   146
   118
   Other labs: PT / PTT / INR:11.1/24.7/0.9, Differential-Neuts:76.9 %,
   Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic Acid:0.6 mmol/L, Ca++:8.0
   mg/dL, Mg++:2.3 mg/dL, PO4:6.6 mg/dL
   Imaging: CT head
   Assessment and Plan
   Assessment and Plan
   85 F with HTN, HLD, CKD stage 4 s/p treatment of [**Hospital **] transferred to
   MICU and intubated for hypoxia, likely secondary to mucus plugging. Has
   had prior bronchs this hospitalization for same.
   # Hypoxia/respiratory distress: Bronch yesterday noted thick mucous
   plugging, no evidence of infection (clear cxs, normal WBCs). Question
   is will this mucous plugging recur and cause her lung to collapse
   again? It took 10 days last time around so maybe she is improving.
   Waiting for sedation to wear off in hopes to extubate.
   -          Extubate if can
   -          Consider bronch again today for further mucous suctioning
   -          Daily CXR
   -          Nebs, mucomyst
   #. CKD4  & Hyperkalemia:
   - Check PM K+ after Kayexalate
   - EKG
   - renally-dose medications
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - cont bicarb
   #. Hypertension & sinus tachycardia: Occurring in setting of sedation
   lightening
   -Continue diltiazem 60mg PO QID.
   - Add Lopressor 5 mg, may repeat, for rate control
   #. Hypothyroidism - cont home levothyroxine.
   #. Hyperlipidemia - cont home statin
   # FEN: IVFs / replete lytes prn / regular diet
   # PPX: PPI, heparin SQ, bowel regimen
   # ACCESS: PIV
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   18 Gauge - [**2128-1-1**] 06:27 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-03 06:56:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 PICC LINE - START [**2128-1-2**] 03:30 PM
   - Withdrawing arms bilaterally, almost posturing. Concern for
   neurologic response to Cipro, Cipro stopped.
   - repeat Ua Ucx sent: +for yeast
   - (plan: fluconazole 150 mg PO x 1)
   - nutrition c/s ordered for tube feeds
   - PICC ordered
   - Echo: EF 70%. Mild AS. Severe mitral annular calcification, mild to
   moderate regurg.
   - Hct drop 3 points (24.6->21.2) in 24 hours, T100
   [**1-2**]
   - PCP was emailed an update
   - PICC line was placed
   - Transfused 1 unit RBC. Hct 21 -> 24
   - Patient received one time dose of Fluconazole 150mg for UCx + yeast
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-1-1**] 06:00 PM
   Fluconazole - [**2128-1-2**] 05:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-2**] 02:00 PM
   Midazolam (Versed) - [**2128-1-3**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-3**] 06:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 81 (66 - 94) bpm
   BP: 145/60(88) {116/47(69) - 153/67(98)} mmHg
   RR: 24 (15 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,571 mL
                                                                    486 mL
   PO:
             TF:
                                                                     89 mL
                                                                    171 mL
   IVF:
                                                                    743 mL
                                                                     35 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,175 mL
                                                                    425 mL
   Urine:
                                                                  1,175 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    396 mL
                                                                     61 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 213 (213 - 213) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/39/102/24/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   General Appearance: Thin, opens eyes to verbal stimuli, no posturing of
   bilateral arms noted this AM
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : ),
   scattered wheezes
   Abdominal: Soft, Bowel sounds present
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   193 K/uL
   7.8 g/dL
   109 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2128-1-1**]  02:14 AM
                             [**2128-1-1**]  02:22 AM
                             [**2128-1-1**]  09:27 AM
                             [**2128-1-1**]  04:57 PM
                             [**2128-1-1**]  05:41 PM
                             [**2128-1-1**]  08:57 PM
                             [**2128-1-2**]  03:05 AM
                             [**2128-1-2**]  03:17 PM
                             [**2128-1-3**]  04:06 AM
                             [**2128-1-3**]  04:16 AM
   WBC
   9.7
   7.0
   7.4
   6.6
   Hct
   24.6
   21.2
   24.3
   23.6
   Plt
   [**Telephone/Fax (3) 11535**]93
   Cr
   4.0
   4.1
   4.0
   4.0
   3.7
   TCO2
   22
   24
   24
   23
   26
   Glucose
   118
   96
   83
   97
   109
   Other labs: PT / PTT / INR:11.4/30.1/0.9, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
   85 F with HTN, CKD stage 4 s/p treatment of [**Hospital **] transferred to MICU and
   intubated for hypoxia, likely secondary to mucus plugging. Has had
   prior bronchs this hospitalization for same.
   # Altered mental status: Believed to have had dystonic reaction to
   cipro, which is likely to remain unmetabolized in her system, given
   severely reduced GFR. Head scans negative for acute issues, although
   may have chronic small vessel ischemic changes. Propofol was
   discontinued and further sedation with Midazolam boluses PRN (was
   agitated with RN care overnight but calmer this morning)
   - Continue sedation with midazolam boluses PRN
   - C/w holding fluoroquinolones
   # Hypoxia/respiratory distress: Respiratory status stable with good
   acid/base status. Bronchs have noted thick mucous plugging. Has low
   grade fevers and normal WBC count. CXR stable. Not extubatable at this
   time given mental status. If MS improves and patient is extubated, will
   assess patient
s wishes re: re-intubation vs tracheostomy.
   -  C/w mechanical ventilation for now
   -  Daily CXR
   -  Nebs, mucomyst
   # Fevers: Low-grade, infectious workup unrevealing besides yeast in
   urine. CXR stable. WBC high-normal
   - Will reculture for further fevers
   - F/u outstanding micro data
   #. CKD4: Creatinine stably high. Patient has voiced wishes to not have
   hemodialysis in the past
   - renally-dose medications
   - watch lytes
   - cont home doxercalciferol (used for secondary hyperparathyroidism)
   - cont bicarb
   #. Hypertension & sinus tachycardia: Occurring in setting of sedation
   lightening
   -Continue diltiazem 60mg PO QID.
   - Add Labetolol for further rate & pressure control, goal SBP < 160
   #. Hypothyroidism - cont home levothyroxine.
   #. Hyperlipidemia - cont home statin
   # FEN: KVO / replete lytes prn / Tube feeds per nutrition recs today
   # PPX: PPI, heparin SQ; will increase bowel regimen
   # ACCESS: PIVx2, Right radial line
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2128-1-2**] 05:08 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-03 08:28:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Resp decompensation 4 days ago
   transfused
   24 Hour Events:
 PICC LINE - START [**2128-1-2**] 03:30 PM
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-1-1**] 06:00 PM
   Fluconazole - [**2128-1-2**] 05:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-2**] 02:00 PM
   Midazolam (Versed) - [**2128-1-3**] 12:15 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-3**] 08:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.6
C (99.6
   Tcurrent: 37.2
C (98.9
   HR: 81 (70 - 94) bpm
   BP: 145/60(88) {120/48(71) - 153/67(98)} mmHg
   RR: 24 (17 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,571 mL
                                                                    532 mL
   PO:
             TF:
                                                                     89 mL
                                                                    210 mL
   IVF:
                                                                    743 mL
                                                                     42 mL
   Blood products:
                                                                    350 mL
   Total out:
                                                                  1,175 mL
                                                                    425 mL
   Urine:
                                                                  1,175 mL
                                                                    425 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    396 mL
                                                                    107 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 213 (213 - 213) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 99
   PIP: 17 cmH2O
   Plateau: 15 cmH2O
   SpO2: 100%
   ABG: 7.41/39/102/24/0
   Ve: 9.4 L/min
   PaO2 / FiO2: 255
   Physical Examination
   Intubated, movement non-purposeful
   Neck supple
   Hrt rrr
   Lung decreased on L
   Abd benign
   Extreme no edema
   Labs / Radiology
   7.8 g/dL
   193 K/uL
   109 mg/dL
   3.7 mg/dL
   24 mEq/L
   3.2 mEq/L
   45 mg/dL
   105 mEq/L
   140 mEq/L
   23.6 %
   6.6 K/uL
        [image002.jpg]
                             [**2128-1-1**]  02:14 AM
                             [**2128-1-1**]  02:22 AM
                             [**2128-1-1**]  09:27 AM
                             [**2128-1-1**]  04:57 PM
                             [**2128-1-1**]  05:41 PM
                             [**2128-1-1**]  08:57 PM
                             [**2128-1-2**]  03:05 AM
                             [**2128-1-2**]  03:17 PM
                             [**2128-1-3**]  04:06 AM
                             [**2128-1-3**]  04:16 AM
   WBC
   9.7
   7.0
   7.4
   6.6
   Hct
   24.6
   21.2
   24.3
   23.6
   Plt
   [**Telephone/Fax (3) 11535**]93
   Cr
   4.0
   4.1
   4.0
   4.0
   3.7
   TCO2
   22
   24
   24
   23
   26
   Glucose
   118
   96
   83
   97
   109
   Other labs: PT / PTT / INR:11.4/30.1/0.9, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.9 g/dL, Ca++:7.4 mg/dL, Mg++:2.0 mg/dL,
   PO4:5.0 mg/dL
   Assessment and Plan
 renal insufficiency
 stable, follow
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CXR with LLL volume loss,
   [**First Name8 (NamePattern2) 178**] [**Last Name (un) 11541**] to PSV and eval readiness to SBT
   Poor mental status
 unclear cause, cont supportive care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2128-1-2**] 05:08 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:  sc hep
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :  ICU
   Total time spent:   36

2128-01-04 07:25:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**1-2**]
   - PCP was emailed an update
   - PICC line was placed
   - Transfused 1 unit RBC. Hct 21 -> 24
   .
   [**1-3**]
   - [**Doctor Last Name 116**] spoke with sons yesterday, who felt pt would want trach
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-1-1**] 06:00 PM
   Fluconazole - [**2128-1-2**] 05:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-3**] 08:50 AM
   Midazolam (Versed) - [**2128-1-4**] 05:00 AM
   Fentanyl - [**2128-1-4**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-4**] 07:25 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 94 (65 - 95) bpm
   BP: 148/66(96) {126/49(75) - 165/73(108)} mmHg
   RR: 29 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,478 mL
                                                                    312 mL
   PO:
             TF:
                                                                    598 mL
                                                                    185 mL
   IVF:
                                                                    370 mL
                                                                     37 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    260 mL
   Urine:
                                                                  1,040 mL
                                                                    260 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    438 mL
                                                                     52 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 576 (385 - 576) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 13
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   Plateau: 19 cmH2O
   SpO2: 100%
   ABG: 7.45/34/143/23/0
   Ve: 6.3 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   222 K/uL
   8.4 g/dL
   114 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   48 mg/dL
   109 mEq/L
   141 mEq/L
   26.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2128-1-1**]  04:57 PM
                             [**2128-1-1**]  05:41 PM
                             [**2128-1-1**]  08:57 PM
                             [**2128-1-2**]  03:05 AM
                             [**2128-1-2**]  03:17 PM
                             [**2128-1-3**]  04:06 AM
                             [**2128-1-3**]  04:16 AM
                             [**2128-1-3**]  01:14 PM
                             [**2128-1-4**]  03:20 AM
                             [**2128-1-4**]  03:35 AM
   WBC
   7.0
   7.4
   6.6
   6.9
   Hct
   21.2
   24.3
   23.6
   26.0
   Plt
   [**Telephone/Fax (3) 11546**]22
   Cr
   4.1
   4.0
   4.0
   3.7
   3.5
   TCO2
   24
   23
   26
   26
   24
   Glucose
   96
   83
   97
   109
   114
   Other labs: PT / PTT / INR:11.3/28.4/0.9, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.9 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 ALTERED MENTAL STATUS (NOT DELIRIUM)
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
   Assessment and Plan
   85 F with HTN, CKD stage 4 s/p treatment of [**Hospital **] transferred to MICU and
   intubated for hypoxia, likely secondary to mucus plugging. Has had
   prior bronchs this hospitalization for same.
   # Altered mental status: Believed to have had dystonic reaction to
   cipro which was started on Wednesday and discontinued Thursday. Given
   renal insufficiency, cipro is likely to remain unmetabolized in her
   system, given severely reduced GFR. Head scans negative for acute
   issues, although may have chronic small vessel ischemic changes.
   Propofol was discontinued and further sedation with Midazolam boluses
   PRN (was agitated with RN care overnight but calmer this morning)
   - Continue sedation with midazolam boluses PRN
   - C/w holding fluoroquinolones
   # Hypoxia/respiratory distress: Respiratory status stable with good
   acid/base status. Bronchs have noted thick mucous plugging. Has low
   grade fevers but normal WBC count that continues to trend down. CXR
   stable. Per discussion by attending with sons, yesterday, family feels
   patient would wish to have a tracheostomy if unable to extubate
   - Continue with mechanical ventilation for now
 will try pressure
   support later today if mental status continues to improve.
   - Daily CXR
   - Nebs, mucomyst
   # Fevers: Low-grade, infectious workup unrevealing besides yeast in
   urine, which has been treated. CXR stable. WBC normal
   - Will reculture for further fevers
   - F/u outstanding micro data
   #. CKD4: Creatinine stably high. Patient has voiced wishes to not have
   hemodialysis in the past
   - Renally-dose medications
   - Monitor electrolytes
   - Continue bicarb
   - Continue doxercalciferol (for secondary hyperparathyroidism, if can
   find means to administer to intubated patient)
   #. Hypertension & sinus tachycardia: Occurring in setting of sedation
   lightening
   -Continue diltiazem 60mg PO QID.
   - Add Labetolol PRN for further rate & pressure control, goal SBP < 160
   #. Hypothyroidism - cont home levothyroxine.
   #. Hyperlipidemia - cont home statin
   # FEN: KVO / replete lytes conservatively prn given renal insufficiency
   / Tube feeds per nutrition recs today
   # PPX: PPI, heparin SQ; will increase bowel regimen
   # ACCESS: PIVx2, Right radial line, PICC
   # CODE: FULL confirmed with patient and HCP- [**Name (NI) 326**]
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 HYPOXEMIA
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2128-1-2**] 05:08 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2128-1-3**] 08:31 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-04 08:16:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Ciprofloxacin - [**2128-1-1**] 06:00 PM
   Fluconazole - [**2128-1-2**] 05:25 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2128-1-3**] 08:50 AM
   Midazolam (Versed) - [**2128-1-4**] 05:00 AM
   Fentanyl - [**2128-1-4**] 05:29 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-4**] 08:16 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.1
C (98.8
   HR: 85 (65 - 95) bpm
   BP: 149/64(93) {117/49(72) - 165/73(108)} mmHg
   RR: 26 (13 - 30) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,478 mL
                                                                    428 mL
   PO:
             TF:
                                                                    598 mL
                                                                    207 mL
   IVF:
                                                                    370 mL
                                                                     41 mL
   Blood products:
   Total out:
                                                                  1,040 mL
                                                                    305 mL
   Urine:
                                                                  1,040 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    438 mL
                                                                    123 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 366 (366 - 576) mL
   PS : 12 cmH2O
   RR (Set): 8
   RR (Spontaneous): 25
   PEEP: 10 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 23 cmH2O
   SpO2: 100%
   ABG: 7.45/34/143/23/0
   Ve: 9.2 L/min
   PaO2 / FiO2: 358
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.4 g/dL
   222 K/uL
   114 mg/dL
   3.5 mg/dL
   23 mEq/L
   3.8 mEq/L
   48 mg/dL
   109 mEq/L
   141 mEq/L
   26.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2128-1-1**]  04:57 PM
                             [**2128-1-1**]  05:41 PM
                             [**2128-1-1**]  08:57 PM
                             [**2128-1-2**]  03:05 AM
                             [**2128-1-2**]  03:17 PM
                             [**2128-1-3**]  04:06 AM
                             [**2128-1-3**]  04:16 AM
                             [**2128-1-3**]  01:14 PM
                             [**2128-1-4**]  03:20 AM
                             [**2128-1-4**]  03:35 AM
   WBC
   7.0
   7.4
   6.6
   6.9
   Hct
   21.2
   24.3
   23.6
   26.0
   Plt
   [**Telephone/Fax (3) 11546**]22
   Cr
   4.1
   4.0
   4.0
   3.7
   3.5
   TCO2
   24
   23
   26
   26
   24
   Glucose
   96
   83
   97
   109
   114
   Other labs: PT / PTT / INR:11.3/28.4/0.9, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.9 g/dL, Ca++:7.8 mg/dL, Mg++:2.0 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
 renal insufficiency
 stable, follow
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name **])
 CXR with LLL volume loss,
   will change to PSV and eval readiness for  SBT
   Poor mental status
 unclear cause, cont supportive care
   ICU Care
   Nutrition:
   NovaSource Renal (Full) - [**2128-1-3**] 08:31 PM 25 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:

2128-01-05 07:07:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - looked much more awake today, squeezing hand, opening eyes on command
   - attempted [**3-31**] in AM and again in PM, both cases became tachypneic.
   Has increased secretions. Put back on [**8-31**], will try to [**Doctor First Name 11552**] with
   aggressive pulm toilet towards AM SBP
   - family still unclear as of evening re would they reintubate
   - for agitation, tachycardia and HTN, put on propofol drip at 21:45
   - At 0100: 7.41/40/45/26 and patient looks dusky, some ?atrial ectopy.
   At 10/5, FiO2 increased to 100% pending stat CXR, repeat ABG:
   7.41/40/48/26. Repeat gas at 0300 7.44/33/183 at 10/5, at 70%. Based on
   that gas dialed back to 60%.
   - Other stat labs: Hct 26->23.5 in past day. Active T&S.
   - Self-extubated this morning. Communicated to sons that she does not
   want re-intubation
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 15 mcg/Kg/min
   Other ICU medications:
   Midazolam (Versed) - [**2128-1-4**] 05:32 PM
   Propofol - [**2128-1-4**] 09:45 PM
   Fentanyl - [**2128-1-5**] 01:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-5**] 07:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 37.8
C (100
   Tcurrent: 36.8
C (98.2
   HR: 67 (61 - 105) bpm
   BP: 134/54(83) {105/43(64) - 181/169(176)} mmHg
   RR: 25 (22 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  2,174 mL
                                                                    455 mL
   PO:
             TF:
                                                                    418 mL
                                                                    138 mL
   IVF:
                                                                  1,236 mL
                                                                    256 mL
   Blood products:
   Total out:
                                                                    805 mL
                                                                    290 mL
   Urine:
                                                                    805 mL
                                                                    290 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,369 mL
                                                                    165 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 349 (278 - 445) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 34
   PEEP: 10 cmH2O
   FiO2: 50%
   RSBI Deferred: PEEP > 10
   PIP: 20 cmH2O
   SpO2: 98%
   ABG: 7.42/35/119/23/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Trace, Left lower extremity
   edema: Trace
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Sedated,
   Tone: Not assessed
   Labs / Radiology
   195 K/uL
   7.7 g/dL
   95 mg/dL
   3.1 mg/dL
   23 mEq/L
   3.7 mEq/L
   47 mg/dL
   109 mEq/L
   140 mEq/L
   23.5 %
   6.6 K/uL
        [image002.jpg]
                             [**2128-1-4**]  03:20 AM
                             [**2128-1-4**]  03:35 AM
                             [**2128-1-4**]  10:28 PM
                             [**2128-1-5**]  12:07 AM
                             [**2128-1-5**]  01:07 AM
                             [**2128-1-5**]  01:15 AM
                             [**2128-1-5**]  01:31 AM
                             [**2128-1-5**]  02:28 AM
                             [**2128-1-5**]  03:22 AM
                             [**2128-1-5**]  06:39 AM
   WBC
   6.9
   6.6
   Hct
   26.0
   23.5
   Plt
   222
   195
   Cr
   3.5
   3.1
   TCO2
   24
   24
   25
   26
   26
   25
   23
   23
   Glucose
   114
   95
   Other labs: PT / PTT / INR:11.7/34.9/1.0, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.6 mmol/L, Albumin:2.9 g/dL, Ca++:7.5 mg/dL, Mg++:1.8 mg/dL,
   PO4:3.5 mg/dL
   Microbiology: [**1-4**] Sputum: Contaminated
   Assessment and Plan
   85 F with CKD stage 4 s/p treatment of [**Hospital **] transferred to MICU and
   intubated for hypoxia, likely secondary to mucus plugging. Has had
   prior bronchs this hospitalization for same.
   # Altered mental status: Improving. Head scans negative except for
   chronic small vessel ischemic changes. Much more alert this AM. [**Month (only) 60**]
   have been [**12-30**] prolonged clearance of cipro.
   - Avoid sedation now that extubated
   - Monitor MS
   # Hypoxia/respiratory distress: Now extubated and has communicated that
   she does not want re-intubation. Respiratory status stable, CXR OK.
   Continues to have low grade fevers, but normal WBC count.  Concern for
   recurrent plugging, given hypoxic episodes and prior bronchoscopy
   findings.
   - Aggressive pulmonary toilet this AM
   - ABG
   - Treat hypoxia PRN with non-invasive ventilation
   - Daily CXR
   - Nebs, mucomyst
   # Fevers: Low-grade. Infectious workup unrevealing besides yeast in
   urine, which has been treated. CXR stable. WBC normal. Last sputum cx 5
   days ago.
   - F/u outstanding cxs
   - Re-culture if spikes further
   #. CKD4: Creatinine improved but high, within range of baseline.
   Patient has voiced reluctance about hemodialysis in the past
   - Renally-dose medications
   - Monitor electrolytes
   - Restart doxercalciferol (for secondary hyperparathyroidism)
   #. Hypertension & sinus tachycardia: Stable. BP/HR have increased in
   the past when weaned off ventilator. Now that extubated. Anticipate
   higher BP/HR
   -Continue diltiazem 60mg PO QID.
   - Add Labetolol PRN for further rate & pressure control, goal SBP < 160
   #. Hypothyroidism - cont home levothyroxine.
   #. Hyperlipidemia - cont home statin
   # FEN: KVO / replete lytes conservatively prn given renal insufficiency
   / Tube feeds per nutrition recs
   # PPX: heparin SQ; bowel regimen
   # ACCESS: Right radial line, PICC
   # CODE: DNI, per patient. Per attending, CPR not indicated
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2128-01-06 06:48:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   CXR: whiteout of LL. Patient has stated she is DNR/DNI
   Diuresed yesterday with good UOP
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2128-1-5**] 09:46 PM
   Heparin Sodium (Prophylaxis) - [**2128-1-5**] 11:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2128-1-6**] 06:48 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.4
C (97.6
   HR: 87 (71 - 102) bpm
   BP: 136/53(82) {133/53(80) - 174/83(112)} mmHg
   RR: 23 (23 - 35) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                  1,004 mL
                                                                     68 mL
   PO:
             TF:
                                                                    250 mL
   IVF:
                                                                    544 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,790 mL
                                                                  1,150 mL
   Urine:
                                                                  2,790 mL
                                                                  1,150 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,786 mL
                                                                 -1,082 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   FiO2: 80%
   SpO2: 100%
   ABG: 7.46/32/62/22/0
   Ve: 6.4 L/min
   PaO2 / FiO2: 78
   Physical Examination
   Alert and oriented x 3
   CTA
   S1 S2
   Soft nt nd abd
   No edema
   Labs / Radiology
   234 K/uL
   8.2 g/dL
   80 mg/dL
   3.2 mg/dL
   22 mEq/L
   3.8 mEq/L
   51 mg/dL
   109 mEq/L
   144 mEq/L
   24.9 %
   6.9 K/uL
        [image002.jpg]
                             [**2128-1-5**]  01:07 AM
                             [**2128-1-5**]  01:15 AM
                             [**2128-1-5**]  01:31 AM
                             [**2128-1-5**]  02:28 AM
                             [**2128-1-5**]  03:22 AM
                             [**2128-1-5**]  06:39 AM
                             [**2128-1-5**]  11:57 AM
                             [**2128-1-5**]  09:27 PM
                             [**2128-1-6**]  03:15 AM
                             [**2128-1-6**]  03:27 AM
   WBC
   6.6
   6.9
   Hct
   23.5
   24.9
   Plt
   195
   234
   Cr
   3.1
   3.2
   TCO2
   26
   26
   25
   23
   23
   23
   23
   23
   Glucose
   95
   80
   Other labs: PT / PTT / INR:11.7/34.9/1.0, CK / CKMB / Troponin-T:48//,
   Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4 %, Eos:0.8 %, Lactic
   Acid:0.7 mmol/L, Albumin:2.9 g/dL, Ca++:8.3 mg/dL, Mg++:2.5 mg/dL,
   PO4:3.7 mg/dL
   Assessment and Plan
   85 F with CKD stage 4 s/p treatment of [**Hospital **] transferred to MICU for
   hypoxia, likely secondary to mucus plugging, self extubated yesterday,
   now with decreasing oxygenation and whiteout of LL on CXR
   # Hypoxia/respiratory distress: Now extubated and has communicated that
   she does not want re-intubation or deep suctioning. If she
   decompensates, can consider noninvasive PP. But given her clinical
   picture, past course, and continued dwindling oxygenation she is
   probably in need of a hospice / palliative care approach. She may have
   - Aggressive pulmonary toilet this AM
   - Treat hypoxia PRN with non-invasive ventilation
   - Nebs, mucomyst
   - For pain/air hunger, consider Morphine 0.5 mg IV prn
   #. CKD4: Creatinine improved but high, within range of baseline.
   Patient has voiced reluctance about hemodialysis.
   - Renally-dose medications
   - Monitor electrolytes
   - Restart doxercalciferol (for secondary hyperparathyroidism)
   # Altered mental status: Improved fully. [**Month (only) 60**] have been [**12-30**] prolonged
   clearance of cipro.
   - Avoid sedation now that extubated
   - Monitor MS
   #. Hypertension & sinus tachycardia: Stable.
   -Continue diltiazem 60mg PO QID.
   - Add Labetolol PRN for further rate & pressure control, goal SBP < 160
   - Hold Lasix
   #. Hypothyroidism - cont home levothyroxine.
   #. Hyperlipidemia - cont home statin
   # FEN: KVO / replete lytes conservatively prn given renal insufficiency
   / Tube feeds per nutrition recs, also can have thin liquids and pureed
   foods
   # PPX: heparin SQ; bowel regimen
   # ACCESS: Right radial line, PICC
   # CODE: DNI, per patient. Per attending, CPR not indicated
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   resident note, including the assessment and plan. Self extubated
   yesterday.  Expressing wished to be DNR/DNI.  Diuresed overnight with
   good uop.
   AF  80-100  160/70  20s  91%  FM  4L out
   Awake, agitated
   diminshed BS L, distant R
   CV 2/6 SEM
   Abd soft, NT
   no edema
   WBC 6.9 K, HCT 25, K+ 3.8, Cr 3.2     746/32/62,  7.45/31/47
   CXR now with recurrent L collapse
   She does not want to be reintubated.  She has worsening abgs/hypoxia
   and recurrent total L lung collapse. Suspiciion for underlying LLL
   malignancy though no endobronchial lesions were seen on prior
   bronchs.   Will try to reexpand and improve oxygenation with aggressive
   chest PT, [**Name (NI) **] sx / pulm toliet, nebs and possibly NPPV if pt will
   tolerate. Will hold on additional diuresis and follow i and o's.
   Diuresed well yesterday and now without clinical signs of sig volume
   overload.  Pallaitive care  consult, as pt may benefif from hospice.
   She is refusing some care and is DNR/DNI.  Family updated on rounds and
   pts sons understand her decline and expressed wishes.  Remainder as per
   resident note.
   Time spent 50 min
   Critically ill
   ------ Protected Section Addendum Entered By:[**Name (NI) 744**] [**Last Name (NamePattern1) 1165**], MD
   on:[**2128-1-6**] 15:45 ------

2128-01-07 06:53:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EKG - At [**2128-1-6**] 01:52 PM
   - S&Swallow: thin liquids, pureed solids
   - Pt complaining of RLSB chest pain, reproducible, EKG nl, CE okay
   given CRF --> ?oxygen hunger. Started Morphine 1-3mg q1hour PRN with
   good effect
   - Continued to be agitated, taking off facemask throughout day. Desats
   to ~85% and refusing deep suction. Attempted facetent this PM
   - Palliative care saw patient. Team spoke w/ sons who agreed goal is
   comfort
   Allergies:
   Ampicillin
   Rash;
   Codeine
   Nausea/Vomiting
   Tetracyclines
   Unknown;
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Morphine Sulfate - [**2128-1-6**] 08:37 PM
   Midazolam (Versed) - [**2128-1-7**] 12:01 AM
   Fentanyl - [**2128-1-7**] 01:58 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Respiratory: Dyspnea
   Flowsheet Data as of  [**2128-1-7**] 06:53 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**29**] AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.4
C (97.6
   HR: 95 (81 - 106) bpm
   BP: 176/81(117) {137/52(80) - 176/81(117)} mmHg
   RR: 30 (18 - 30) insp/min
   SpO2: 86%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 63 Inch
             Total In:
                                                                    240 mL
                                                                     68 mL
   PO:
             TF:
   IVF:
                                                                    240 mL
                                                                     68 mL
   Blood products:
   Total out:
                                                                  2,185 mL
                                                                    370 mL
   Urine:
                                                                  2,185 mL
                                                                    370 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,945 mL
                                                                   -302 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   SpO2: 86%
   ABG: 7.45/35/76.[**Numeric Identifier 128**]/21/0
   PaO2 / FiO2: 76
   Physical Examination
   General Appearance: Anxious
   Head, Ears, Nose, Throat: Poor dentition
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Percussion: Dullness : ),
   (Breath Sounds: Bronchial: , Rhonchorous: ), Use of accessory neck
   muscles
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: 1+, Left lower extremity
   edema: 1+
   Musculoskeletal: Muscle wasting
   Skin:  Not assessed
   Neurologic: Attentive, Responds to: Verbal stimuli, Movement:
   Purposeful, Tone: Not assessed
   Labs / Radiology
   286 K/uL
   8.7 g/dL
   75 mg/dL
   3.2 mg/dL
   21 mEq/L
   3.8 mEq/L
   46 mg/dL
   107 mEq/L
   142 mEq/L
   27.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2128-1-5**]  03:22 AM
                             [**2128-1-5**]  06:39 AM
                             [**2128-1-5**]  11:57 AM
                             [**2128-1-5**]  09:27 PM
                             [**2128-1-6**]  03:15 AM
                             [**2128-1-6**]  03:27 AM
                             [**2128-1-6**]  11:51 AM
                             [**2128-1-6**]  01:44 PM
                             [**2128-1-6**]  01:53 PM
                             [**2128-1-7**]  04:19 AM
   WBC
   6.9
   7.0
   Hct
   24.9
   27.4
   Plt
   234
   286
   Cr
   3.2
   3.4
   3.2
   TropT
   0.05
   TCO2
   23
   23
   23
   23
   23
   22
   25
   Glucose
   80
   86
   75
   Other labs: PT / PTT / INR:11.7/34.9/1.0, CK / CKMB /
   Troponin-T:26//0.05, Differential-Neuts:76.9 %, Lymph:17.4 %, Mono:4.4
   %, Eos:0.8 %, Lactic Acid:0.7 mmol/L, Albumin:2.9 g/dL, Ca++:8.4 mg/dL,
   Mg++:2.3 mg/dL, PO4:3.6 mg/dL
   Imaging: [**1-6**] CXR: As compared to the previous examination, there is a
   complete
   collapse of the left lung. As a consequence, there is an extensive
   shift of the mediastinum and the heart to the left. In the right lung,
   the parenchyma shows minimally improved ventilation. No evidence of
   interval occurrence of focal parenchymal opacities on the right.
   In the interval, the patient has been extubated and the nasogastric
   tube has been removed.
   Microbiology: [**1-4**] Sputum Cx:    GRAM STAIN: <10 PMNs and >10 epithelial
   cells/100X field. Gram stain indicates extensive contamination with
   upper respiratory secretions.
   Assessment and Plan
   Hypoxic and hypercarbic
   85 F with CKD stage 4 s/p treatment of [**Hospital **] transferred to MICU for
   hypoxia, likely secondary to mucus plugging, self extubated yesterday,
   now with decreasing oxygenation and whiteout of LL on CXR
   # Hypoxia/respiratory distress: Now extubated and is DNR/DNI.
   Re-intubation and deep suctioning are not going to be pursued. Using
   non-invasive measures only for respiratory distress, as well as PRN
   morphine for dyspnea. Pursuing palliative care at this time; patient
   may benefit from transfer to hospice facility.
   - Treat hypoxia PRN with non-invasive ventilation; positive-pressure
   oxygen not indicated, as main purpose would be as a bridge to invasive
   ventilation
   - Nebs, mucomyst
   - For pain/air hunger, can titrate up morphine dose
   #. CKD4: Creatinine improved but high, within range of baseline.
   Patient has voiced reluctance about hemodialysis.
   - Renally-dose medications
   - Monitor electrolytes
   - Restart doxercalciferol (for secondary hyperparathyroidism)
   # Altered mental status: Improved, but patient consistently
   uncomfortable/agitated.
   - Comfort measures with morphine, as above
   - Monitor MS
   #. Hypertension & sinus tachycardia: Patient refusing oral
   anti-hypertensives. Pulling back on medications not geared towards
   comfort
   - Will not press patient to take anti-hypertensives; not
   comfort-oriented
   #. Hypothyroidism
 can d/c levothyroxine in line with goals of care
   #. Hyperlipidemia
 can d/c statin, in line with goals of care
   # FEN: KVO / replete lytes conservatively prn given renal insufficiency
   / Tube feeds per nutrition recs, also can have thin liquids and pureed
   foods
   # PPX: d/c heparin SQ; bowel regimen
   # ACCESS: PICC. Can likely pull A line for comfort purposes. Will keep
   PICC in for IV medications
   # CODE: DNR/DNI. Will discuss with family possibility of making CMO
   # CONTACT: [**Name (NI) 435**] (son) [**Telephone/Fax (1) 11501**], [**Name (NI) 326**] (son) [**Telephone/Fax (1) 9446**] both
   HCPs
   # DISPO: ICU; consider transfer to hospice
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2127-12-29**] 08:37 PM
   PICC Line - [**2128-1-2**] 03:30 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: